US07943567B2
In accordance with scheme (9) above, a 500 mL two neck round bottom flask can be equipped with a thermocouple, agitator, and heating mantle. About 212.1 g (0.599 mole) 4,5,5,5-tetrafluoro-4(trifluoromethyl)-2-iodopentan-1-ol (212.1 g, 0.599 mole) can be added to the flask and heated to about 60° C. to 70° C. From a 100 mL pressure equalized addition funnel, about 196.4 g (0.675 mole) tributyltin hydride can be added drop-wise over a 4 hour period followed by 2 hours of continued heating and stirring. The RF-intermediate 4,5,5,5-tetrafluoro-4(trifluoromethyl)pentan-1-ol, can be obtained through vacuum distillation and verified by gas chromatography/mass spectrometry (m/z 228 (M+), 211 (M+-OH), 159 (M+-CF3)).

reactant | 4,5,5,5-tetrafluoro-4(trifluoromethyl)-2-iodopentan-1-ol | 0.599 mole, 212.1 g | FC(CC(CO)I)(C(F)(F)F)C(F)(F)F | C6H6F7IO
reactant | tributyltin hydride | 0.675 mole, about 196.4 g | C(CCC)[SnH](CCCC)CCCC
product | 4,5,5,5-tetrafluoro-4(trifluoromethyl)pentan-1-ol | FC(CCCO)(C(F)(F)F)C(F)(F)F | C6H7F7O
